.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-102_freq port1 port2 PARAMS: Cpar=1.7pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.06
+ C= {Cpar}
+ K1=0.00001
+ K2=0.23
+ K3= {Ind}
+ K4=0.011
+ K5=0.0000095
+ L=1.11682E-06
+ Is=3.25517677
+ a=0.833717456
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2176.837417
.ends EPL3012-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-102_sat port1 port2 PARAMS: Cpar=1.568pF Ind=1uH
X1 port1 port2 Model1C PARAMS:
+ R1=40
+ R2=0.06
+ C= {Cpar}
+ K1=0.00001
+ K2=0.23
+ K3= {Ind}
+ K4=0.011
+ K5=0.0000095
+ L=1.11682E-06
+ Is=3.25517677
+ a=0.833717456
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2176.837417
.ends EPL3012-102_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-152_freq port1 port2 PARAMS: Cpar=1.48pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=45
+ R2=0.069
+ C= {Cpar}
+ K1=0.00001
+ K2=0.29
+ K3= {Ind}
+ K4=0.012
+ K5=0.0000095
+ L=1.42979E-06
+ Is=2.923747668
+ a=0.854071753
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2660.037853
.ends EPL3012-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-152_sat port1 port2 PARAMS: Cpar=1.398pF Ind=1.5uH
X1 port1 port2 Model1C PARAMS:
+ R1=45
+ R2=0.069
+ C= {Cpar}
+ K1=0.00001
+ K2=0.29
+ K3= {Ind}
+ K4=0.012
+ K5=0.0000095
+ L=1.42979E-06
+ Is=2.923747668
+ a=0.854071753
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2660.037853
.ends EPL3012-152_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-182
* Inductance = 1.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-182_freq port1 port2 PARAMS: Cpar=1.42pF Ind=1.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=65
+ R2=0.076
+ C= {Cpar}
+ K1=0.00001
+ K2=0.33
+ K3= {Ind}
+ K4=0.014
+ K5=0.0000095
+ L=1.73955E-06
+ Is=2.767436634
+ a=0.82664941
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2827.649644
.ends EPL3012-182_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-182
* Inductance = 1.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-182_sat port1 port2 PARAMS: Cpar=1.344pF Ind=1.8uH
X1 port1 port2 Model1C PARAMS:
+ R1=65
+ R2=0.076
+ C= {Cpar}
+ K1=0.00001
+ K2=0.33
+ K3= {Ind}
+ K4=0.014
+ K5=0.0000095
+ L=1.73955E-06
+ Is=2.767436634
+ a=0.82664941
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2827.649644
.ends EPL3012-182_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-222_freq port1 port2 PARAMS: Cpar=1.82pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=45
+ R2=0.097
+ C= {Cpar}
+ K1=0.00001
+ K2=0.46
+ K3= {Ind}
+ K4=0.017
+ K5=0.0000097
+ L=2.2903E-06
+ Is=2.756722245
+ a=0.806890991
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3573.791977
.ends EPL3012-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-222_sat port1 port2 PARAMS: Cpar=1.726pF Ind=2.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=45
+ R2=0.097
+ C= {Cpar}
+ K1=0.00001
+ K2=0.46
+ K3= {Ind}
+ K4=0.017
+ K5=0.0000097
+ L=2.2903E-06
+ Is=2.756722245
+ a=0.806890991
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3573.791977
.ends EPL3012-222_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-332_freq port1 port2 PARAMS: Cpar=2.74pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=0.136
+ C= {Cpar}
+ K1=0.00003
+ K2=0.62
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000097
+ L=3.4805E-06
+ Is=2.409323169
+ a=0.732030576
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4008.80763
.ends EPL3012-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-332_sat port1 port2 PARAMS: Cpar=2.585pF Ind=3.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=35
+ R2=0.136
+ C= {Cpar}
+ K1=0.00003
+ K2=0.62
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000097
+ L=3.4805E-06
+ Is=2.409323169
+ a=0.732030576
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4008.80763
.ends EPL3012-332_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-472_freq port1 port2 PARAMS: Cpar=2.07pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=0.165
+ C= {Cpar}
+ K1=0.00003
+ K2=0.89
+ K3= {Ind}
+ K4=0.038
+ K5=0.0000097
+ L=4.51854E-06
+ Is=1.936277227
+ a=0.637891205
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5827.460231
.ends EPL3012-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-472_sat port1 port2 PARAMS: Cpar=1.966pF Ind=4.7uH
X1 port1 port2 Model1C PARAMS:
+ R1=35
+ R2=0.165
+ C= {Cpar}
+ K1=0.00003
+ K2=0.89
+ K3= {Ind}
+ K4=0.038
+ K5=0.0000097
+ L=4.51854E-06
+ Is=1.936277227
+ a=0.637891205
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5827.460231
.ends EPL3012-472_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-103_freq port1 port2 PARAMS: Cpar=2.17pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.316
+ C= {Cpar}
+ K1=0.00008
+ K2=2.05
+ K3= {Ind}
+ K4=0.073
+ K5=0.0000098
+ L=1.00746E-05
+ Is=1.414977285
+ a=0.669554247
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10902.61586
.ends EPL3012-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-103_sat port1 port2 PARAMS: Cpar=2.078pF Ind=10uH
X1 port1 port2 Model1C PARAMS:
+ R1=40
+ R2=0.316
+ C= {Cpar}
+ K1=0.00008
+ K2=2.05
+ K3= {Ind}
+ K4=0.073
+ K5=0.0000098
+ L=1.00746E-05
+ Is=1.414977285
+ a=0.669554247
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10902.61586
.ends EPL3012-103_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-223_freq port1 port2 PARAMS: Cpar=2.35pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.718
+ C= {Cpar}
+ K1=0.00003
+ K2=4.15
+ K3= {Ind}
+ K4=0.118
+ K5=0.0000098
+ L=2.23101E-05
+ Is=0.912679428
+ a=0.621720271
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18097.60297
.ends EPL3012-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-223_sat port1 port2 PARAMS: Cpar=2.282pF Ind=22uH
X1 port1 port2 Model1C PARAMS:
+ R1=40
+ R2=0.718
+ C= {Cpar}
+ K1=0.00003
+ K2=4.15
+ K3= {Ind}
+ K4=0.118
+ K5=0.0000098
+ L=2.23101E-05
+ Is=0.912679428
+ a=0.621720271
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18097.60297
.ends EPL3012-223_sat

