.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : GA3583
* Inductance = 58uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt GA3583_freq port1 port2 PARAMS: Cpar=1.18pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=500
+ R2=0.06
+ C= {Cpar}
+ K1=0.00003
+ K2=0.6
+ K3= {Ind}
+ K4=0.02
+ K5=0.0000096
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2346.896036
.ends GA3583_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : GA3583
* Inductance = 58uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt GA3583_imp port1 port2 PARAMS: Cpar=1.106pF Ind=2.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=500
+ R2=0.06
+ C= {Cpar}
+ K1=0.00003
+ K2=0.6
+ K3= {Ind}
+ K4=0.02
+ K5=0.0000096
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2346.896036
.ends GA3583_imp

