.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA3778
* Inductance = 7700000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt HA3778_freq port1 port2 PARAMS: Cpar=2.78pF Ind=1.65uH
X1 port1 port2 Model1A PARAMS:
+ R1=300
+ R2=0.00253
+ C= {Cpar}
+ K1=0.000035
+ K2=0.2
+ K3= {Ind}
+ K4=0.056
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=894.5257779
.ends HA3778_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA3778
* Inductance = 7700000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt HA3778_imp port1 port2 PARAMS: Cpar=2.158pF Ind=1.65uH
X1 port1 port2 Model1D PARAMS:
+ R1=300
+ R2=0.00253
+ C= {Cpar}
+ K1=0.000035
+ K2=0.2
+ K3= {Ind}
+ K4=0.056
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=894.5257779
.ends HA3778_imp

