.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : KA5013
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt KA5013_freq port1 port2 PARAMS: Cpar=3.9pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=6
+ R2=0.029
+ C= {Cpar}
+ K1=0.000001
+ K2=0.21
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1659.371466
.ends KA5013_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : KA5013
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt KA5013_imp port1 port2 PARAMS: Cpar=3.9pF Ind=1.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=6
+ R2=0.029
+ C= {Cpar}
+ K1=0.000001
+ K2=0.21
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1659.371466
.ends KA5013_imp

